US04673746
A mixture of 14.2 g of 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole and pyridine hydrochloride is heated at 180° C. for 2 hr. The reaction is worked up with 2-butanone and 5% hydrochloric acid and the product crystallized from toluene to give 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole, mp 170°-172° C. The hydroxy compound is alkylated with 0.045 mole of ethyl bromoacetate and 0.043 mole of potassium carbonate in 75 ml dimethylformamide at 65° C. for 1 hr. Workup with water gives ethyl [7-chloro-3-(2-fluoro-4-ethoxyphenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, mp 118°-119° C., after recrystallization from acetonitrile.

reactant | 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-methoxy-1,2-benzisoxazole | 14.2 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=C(C=C2)OCC)F)OC | C16H13ClFNO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 7-chloro-3-(4-ethoxy-2-fluorophenyl)-6-hydroxy-1,2-benzisoxazole | ClC1=C(C=CC=2C(=NOC21)C2=C(C=C(C=C2)OCC)F)O | C15H11ClFNO3
